US04719219
Example E14. (-)N-n-Propyl-3-(3-allyloxyphenyl)piperidine hydrochloride (method 1)
(-)N-n-propyl-3-(3-hydroxyphenyl)piperidine hydrochloride (0.255 g, 1 mmol) and tetrabutylammonium hydrogen sulphate (0.340 g, 1 mmol) were suspended in dichloromethane (2 ml) and allylbromide (0.133 g, 1.1 mmol). 2-M NaOH (2 ml) was added during two minutes and the mixture was stirred at room temperature for half an hour. The layers were separated and the organic layer was dried over Na2SO4. After removal of the solvent by distillation, the residual oil was dissolved in ether (50 ml). A theoretical quantity of tetrabutylammonium iodide was precipitated. The precipitate was filtered off and to the filtrate was added one equivalent HCl-saturated ether. White crystals of the desired compound was obtained. The crystals were filtered, washed on the filters with ether and dried. Yield 190 mg (65%). Mp. 136°-138° C. [α]D20 (C=1.5 MeOH) (-)7.6°.

reactant | (-)N-n-propyl-3-(3-hydroxyphenyl)piperidine hydrochloride | 1 mmol, 0.255 g | Cl.C(CC)N1CC(CCC1)C1=CC(=CC=C1)O
reactant | allylbromide | 1.1 mmol, 0.133 g | C(C=C)Br | C3H5Br
reactant | NaOH | 2 ml | [OH-].[Na+]
reactant | HCl | one equivalent | Cl | ClH
catalyst | tetrabutylammonium hydrogen sulphate | 1 mmol, 0.340 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | (-)N-n-Propyl-3-(3-allyloxyphenyl)piperidine hydrochloride | Cl.C(CC)N1CC(CCC1)C1=CC(=CC=C1)OCC=C | InChI=1S/C17H25NO.ClH/c1-3-10-18-11-6-8-16(14-18)15-7-5-9-17(13-15)19-12-4-2;/h4-5,7,9,13,16H,2-3,6,8,10-12,14H2,1H3;1H
